US05475114
A mixture consisting of 5.64 g of 1-ethoxycarbonyloxyethyl 2,7-diethyl-5-[[2'-(N-triphenylmethyl-tetrazol-5-yl)biphenyl-4-yl]methyl]-5H-pyrazolo[1,5-b][1,2,4]triazole-6-carboxylate, 230 ml of methanol and 12 ml of acetic acid was heated under reflux for 3 hours. After removing the solvent by distillation under a reduced pressure, the resulting residue was subjected to silica gel column chromatography. Elution was conducted with a methanol-chloroform (1:19, v/v) mixed solvent to give 3.76 g of 1-ethoxycarbonyloxyethyl 2,7-diethyl-5-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]-5H-pyrazolo[1,5-b][1,2,4]triazole-6-carboxylate in the form of amorphous foamy material.

reactant | 1-ethoxycarbonyloxyethyl 2,7-diethyl-5-[[2'-(N-triphenylmethyl-tetrazol-5-yl)biphenyl-4-yl]methyl]-5H-pyrazolo[1,5-b][1,2,4]triazole-6-carboxylate | 5.64 g | C(C)C=1N=C2N(N1)N(C(=C2CC)C(=O)OC(C)OC(=O)OCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C47H44N8O5
reactant | methanol | 230 ml | CO | CH4O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 1-ethoxycarbonyloxyethyl 2,7-diethyl-5-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]-5H-pyrazolo[1,5-b][1,2,4]triazole-6-carboxylate | 3.76 g | C(C)C=1N=C2N(N1)N(C(=C2CC)C(=O)OC(C)OC(=O)OCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C28H30N8O5
